US04452799
1-[4-[4-(1,2-Benzisothiazol-3-yl)-1-piperazinyl]butyl]-4-methyl-4-propyl-2,6-piperidinedione
Title product hydrochloride--Reaction of N-(4-bromobutyl)-3-methyl-3-n-propylglutarimide with 3-(1-piperazinyl)-1,2-benzisothiazole and conversion of the free base to the hydrochloride salt according to the procedure of Example 3 affords 1-[4-[4-(1,2-benzisothiazol-3-yl)-1-piperazinyl]butyl]-4-methyl-4-propyl-2,6-piperidinedione hydrochloride, m.p. 163°-165° C.

reactant | hydrochloride | Cl | ClH
reactant | N-(4-bromobutyl)-3-methyl-3-n-propylglutarimide | BrCCCCN1C(CC(CC1=O)(CCC)C)=O | C13H22BrNO2
reactant | 3-(1-piperazinyl)-1,2-benzisothiazole | N1(CCNCC1)C1=NSC2=C1C=CC=C2 | C11H13N3S
product | 1-[4-[4-(1,2-Benzisothiazol-3-yl)-1-piperazinyl]butyl]-4-methyl-4-propyl-2,6-piperidinedione | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCCN2C(CC(CC2=O)(CCC)C)=O | C24H34N4O2S
